US07067658B2
Trifluoro-methanesulfonic acid 4-(5-fluoro-4-methoxy-2-methyl-phenyl)-3-nitro-pyridin-2-yl ester (0.5 g, 1.22 mmol), prepared substantially as described in Part C of Example 19a, and (R)-1-cyclopropyl-propylamine (0.33 g, 2.44 mmol) were treated substantially as described in Part C of Example 19a to produce 0.17 g (43%) of crude (R)-(1-Cyclopropyl-propyl)-[4-(5-fluoro-4-methoxy-2-methyl-phenyl)-3-nitro-pyridin-2-yl]-amine.

reactant | Trifluoro-methanesulfonic acid 4-(5-fluoro-4-methoxy-2-methyl-phenyl)-3-nitro-pyridin-2-yl ester | 1.22 mmol, 0.5 g | FC=1C(=CC(=C(C1)C1=C(C(=NC=C1)OS(=O)(=O)C(F)(F)F)[N+](=O)[O-])C)OC | C14H10F4N2O6S
reactant | (R)-1-cyclopropyl-propylamine | 2.44 mmol, 0.33 g | C1(CC1)[C@@H](CC)N | C6H13N
product | (R)-(1-Cyclopropyl-propyl)-[4-(5-fluoro-4-methoxy-2-methyl-phenyl)-3-nitro-pyridin-2-yl]-amine | 0.17 g, 43% | C1(CC1)[C@@H](CC)NC1=NC=CC(=C1[N+](=O)[O-])C1=C(C=C(C(=C1)F)OC)C | C19H22FN3O3
